US06410737B1
Raney Nickel (0.7 g) was added to a solution of the above isomer mixture (35.85 g) in ethanol in a hydrogenation reactor at 50° C. under hydrogen at 5 bar for 5 hours. The mixture was cooled, filtered and evaporated to give a 95/5 mixture of 2-chloro-4-trifluoromethylaniline and 2-chloro-5-trifluoromethylaniline (33.1 g). Hydrogen chloride gas was added over 0.5 hour to a solution of the above mixture in ethanol and chlorobenzene, cooled to 0° C., and filtered to give 2-chloro-4-trifluoromethylaniline hydrochloride (33.5 g), having a purity of >99%. The overall yield from 3,4-dichlorobenzotrifluoride was 85%.

reactant | 2-chloro-4-trifluoromethylaniline | ClC1=C(N)C=CC(=C1)C(F)(F)F | C7H5ClF3N
reactant | 2-chloro-5-trifluoromethylaniline | 33.1 g | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
reactant | Hydrogen chloride | Cl | ClH
catalyst | Raney Nickel | 0.7 g | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2-chloro-4-trifluoromethylaniline hydrochloride | 33.5 g | Cl.ClC1=C(N)C=CC(=C1)C(F)(F)F | InChI=1S/C7H5ClF3N.ClH/c8-5-3-4(7(9,10)11)1-2-6(5)12;/h1-3H,12H2;1H
